US09227976B2
Step 5: 4-chloro-5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine (Compound IIIa)
5-Iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol (160 mg, 0.45 mmol) in phosphorous oxychloride (0.6 mL) was heated to 120° C. for 10 min. The reaction mixture was cooled to room temperature and the suspension was filtered. The collected solid was dissolved in CH2Cl2 and washed with water. The organic phase was dried (phase separator cartridge) and concentrated in vacuo, to yield Compound IIIa (130 mg).

reactant | 5-Iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 0.45 mmol, 160 mg | IC1=C(C2=C(N=N1)N(N=C2C2=CC=CC=C2)C)O | C12H9IN4O
reactant | phosphorous oxychloride | 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1I)N(N=C2C2=CC=CC=C2)C | C12H8ClIN4
